US07220862B2
(R)-2-{[4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid
A solution of (R)-2-{[4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid methyl ester (775 mg, 1.21 mmol) in tetrahydrofuran (9 mL) and methanol (3 mL) was cooled to 0° C. A solution of lithium hydroxide monohydrate (115 mg, 4.84 mmol) in water (3 mL) was added. The reaction mixture was stirred at 0° C. for 2 h and then placed in the freezer at −15° C. for 16 h. While cooling the reaction mixture with an ice bath, the pH was increased to ca. 7 by addition of 1N hydrochloric acid (3.8 mL). Organic solvents were removed under vacuum. The resulting aqueous solution was extracted with ethyl acetate after additon of more 1N hydrochloric acid (0.5 mL). The combined extracts were dried over magnesium sulfate, filtered and evaporated to give 684 mg (90%) of the title compound as a white solid. 1H-NMR (DMSO-d6, 300 MHz) δ 9.21 (s, 1H), 8.58 (s, 1H), 7.90 (d, J=8.4 Hz, 1H), 7.78 (s, 1H), 7.56 (d, J=8.1 Hz, 1H), 7.13–7.09 (m, 2H), 6.88–6.83 (m, 1H), 6.76–6.74 (m, 2H), 4.33–4.27 (m, 2H), 4.18 (s, 2H), 4.09–3.96 (m, 3H), 3.57–3.51 (m, 2H), 3.25–3.04 (m, 2H), 2.74–2.60 (m, 2H), 1.54–1.43 (m, 4H), 0.70–0.64 (m, 2H), −0.08 (s, 9H). Mass spec.: 627 (MH)+.

reactant | (R)-2-{[4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid methyl ester | 1.21 mmol, 775 mg | COC([C@@H](CC=1C=C2C=NN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C30H40N6O6SSi
reactant | lithium hydroxide monohydrate | 4.84 mmol, 115 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 3.8 mL | Cl | ClH
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | (R)-2-{[4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid | 684 mg, 90% | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC=1C=C2C=NN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C | C29H38N6O6SSi
